US07951956B2
3,4-Diaminobenzophenone (1.48 g) and sodium hydrogensulfite (0.87 g) were added to N,N-dimethylacetamide (5 ml) at 130° C., and stirred for 5 minutes. 2,4-Dimethyl-3-formyl-pyrrole (1.03 g) was added and stirred at 130° C. for 8 hours. The reaction mixture was cooled to room temperature and stirred, and after addition of water to reaction mixture, precipitate was collected by filtration, and dried in vacuo to afford 2-(2,4-dimethyl-pyrrol-3-yl)-5-benzoylbenzimidazole (1.78 g, 81%) as a brown solid.

reactant | 3,4-Diaminobenzophenone | 1.48 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
reactant | sodium hydrogensulfite | 0.87 g | S(=O)(O)[O-].[Na+]
reactant | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
reactant | 2,4-Dimethyl-3-formyl-pyrrole | 1.03 g | CC=1NC=C(C1C=O)C | C7H9NO
solvent | water | O | H2O
product | 2-(2,4-dimethyl-pyrrol-3-yl)-5-benzoylbenzimidazole | 1.78 g, 81% | CC=1NC=C(C1C=1NC2=C(N1)C=CC(=C2)C(C2=CC=CC=C2)=O)C | C20H17N3O
